US04839374
To a stirred mixture of 3 parts of 3-[2-[4-[[3-(2-furanylmethyl)-3H-imidazo[4,5-b]pyridin-2-yl]methyl]-1-piperidinyl]ethyl]-2,3-dihydro-6-methyl-2-thioxothieno[2,3-d]pyrimidin-4(1H)-one, 4.3 parts of potassium hydroxide, 56 parts of ethanol and 5.5 parts of water were added dropwise 45 parts of a hydrogen peroxide solution 3%. The whole was stirred overnight. The reaction mixture was evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (90:10 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 2-propanone. The product was filtered off and dried, yielding 1.7 parts (58%) of 3-[2-[4-[[3-(2-furanylmethyl)-3H-imidazo[4,5-b]pyridin-2-yl]methyl]-1-piperidinyl]ethyl]-6-methylthieno[2,3-d]pyrimidine-2,4(1H,3H)-dione monohydrate; mp. 135.4° C. (496).

reactant | 3-[2-[4-[[3-(2-furanylmethyl)-3H-imidazo[4,5-b]pyridin-2-yl]methyl]-1-piperidinyl]ethyl]-2,3-dihydro-6-methyl-2-thioxothieno[2,3-d]pyrimidin-4(1H)-one | O1C(=CC=C1)CN1C(=NC=2C1=NC=CC2)CC2CCN(CC2)CCN2C(NC1=C(C2=O)C=C(S1)C)=S | C26H28N6O2S2
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethanol | C(C)O | C2H6O
reactant | hydrogen peroxide | OO | H2O2
solvent | water | O | H2O
product | 3-[2-[4-[[3-(2-furanylmethyl)-3H-imidazo[4,5-b]pyridin-2-yl]methyl]-1-piperidinyl]ethyl]-6-methylthieno[2,3-d]pyrimidine-2,4(1H,3H)-dione monohydrate | 58% | O.O1C(=CC=C1)CN1C(=NC=2C1=NC=CC2)CC2CCN(CC2)CCN2C(NC1=C(C2=O)C=C(S1)C)=O | InChI=1S/C26H28N6O3S.H2O/c1-17-14-20-24(36-17)29-26(34)31(25(20)33)12-11-30-9-6-18(7-10-30)15-22-28-21-5-2-8-27-23(21)32(22)16-19-4-3-13-35-19;/h2-5,8,13-14,18H,6-7,9-12,15-16H2,1H3,(H,29,34);1H2
